US06720320B2
2-(7-methoxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole
To a solution (280 ml) of N′-(7-methoxybenzo(b)furan-2-ylcarbonyl)trifluoroacetohydrazide (14.6 g) in 1,2-dichloroethane were added thionyl chloride (4.2 ml) and DMF (0.1 ml) and the mixture was refluxed under heating for 4.5 hr. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform/ethyl acetate) to give the title compound (2.4 g) as pale-yellow crystals.

reactant | N′-(7-methoxybenzo(b)furan-2-ylcarbonyl)trifluoroacetohydrazide | 280 ml, 14.6 g | COC1=CC=CC2=C1OC(=C2)C(=O)NNC(C(F)(F)F)=O | C12H9F3N2O4
reactant | thionyl chloride | 4.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(7-methoxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 2.4 g | COC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C(F)(F)F | C12H7F3N2O3
